US04533688
(b) 2-Chloro-4,6-bis[N-methyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine
18.4 g of cyanuric chloride and 34.0 g of 2,2,6,6-tetramethyl-4-(methylamino)piperidine were dissolved in 250 ml of xylene, and the solution was stirred at a temperature of 90°-110° C. for 3 hours. 30 ml of a saturated aqueous solution of potassium carbonate were then added and the resulting mixture was heated under reflux for 5 hours. At the end of this time, the reaction mixture was poured into water and extracted with benzene. The extract was dried over anhydrous potassium carbonate and then the benzene was distilled off. The residue was recrystallized from ethyl acetate, giving the title compound in the form of crystals melting at 179°-180° C.

reactant | cyanuric chloride | 18.4 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 2,2,6,6-tetramethyl-4-(methylamino)piperidine | 34.0 g | CC1(NC(CC(C1)NC)(C)C)C | C10H22N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Chloro-4,6-bis[N-methyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine | ClC1=NC(=NC(=N1)N(C1CC(NC(C1)(C)C)(C)C)C)N(C)C1CC(NC(C1)(C)C)(C)C | C23H42ClN7
